US07112585B2
4-[2-Methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenol
A mixture of [5-(4-methoxy-benzenesulfonyl)-2-methyl-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine (300 mg, 0.75 mmol), prepared as described in Example 1, LiI (2.0 g, 15 mmol) and 2,4,6-collidine (5 mL) was refluxed under N2 for 2 h and then cooled to room temperature. The reaction mixture was diluted with Et2O, and extracted (4×) with 2 N NaOH. The combined aqueous layers were washed with ether, neutralized with 3 N HCl to pH=7.0 and then were extracted three times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (50:50 hexanes/EtOAc) to provide the desired product (271 mg, 93%) as a white solid: mp 246–248° C.; 1H NMR (300 MHz, CDCl3) δ 8.69 (s, 1H), 8.30 (br s, 1H), 7.82 (d, J=8.7 Hz, 2H), 6.92 (s, 2H), 6.89 (d, J=8.7 Hz, 2H), 2.40 (s, 3H), 2.31 (s, 3H), 2.03 (s, 6H); APCI MS m/z 384 [(M+H)+, calcd for C20H22N3O3S, 384.1].

reactant | [5-(4-methoxy-benzenesulfonyl)-2-methyl-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine | 0.75 mmol, 300 mg | COC1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=NC1)C)NC1=C(C=C(C=C1C)C)C | C21H23N3O3S
reactant | LiI | 15 mmol, 2.0 g | [Li+].[I-]
reactant | 2,4,6-collidine | 5 mL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | Et2O | CCOCC | C4H10O
product | 4-[2-Methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenol | 271 mg, 93% | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)O | C20H21N3O3S
